* /home/saurabh/downloads/esim-1.1.2/examples/halfwave_rectifier/halfwave_rectifier.cir

.include D.lib
d1 in out 1N4148
r1  out gnd 1k
v1  in gnd sine(0 20 50 0 0)
* u2  in plot_v1
* u3  out plot_v1
.tran 1e-04 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
